US06858651B2
A solution of 2.66 g (9.44 mmol) of trans-[4-(4-Hydroxy-but-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 75 ml CH2Cl2 was treated at 0° C. with 0.81 ml (10.38 mmol) methanesulfonylchloride, 1.14 ml (14.16 mmol) pyridine and 1.15 g (9.44 mmol) DMAP. The reaction mixture was stirred at RT for 3 h, water (19 ml) was added and the reaction was stirred for 5 min. After extraction with aqueous 10% KHSO4/Et2O (3×) the organic phases were washed with aqueous saturated NaHCO3 (2×), aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 3.57 g (quantitative) of trans-Methanesulfonic acid 4-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-but-3-ynyl ester, MS: 360 (MH+).

reactant | trans-[4-(4-Hydroxy-but-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 9.44 mmol, 2.66 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCCO)=O | C16H27NO3
reactant | methanesulfonylchloride | 10.38 mmol, 0.81 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 14.16 mmol, 1.14 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 19 ml | O | H2O
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.44 mmol, 1.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | trans-Methanesulfonic acid 4-[4-(tert-butoxycarbonyl-methyl-amino)-cyclohexyl]-but-3-ynyl ester | 3.57 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C#CCCOS(=O)(=O)C)C | C17H29NO5S
